US05015758
Preparation of 2-(1-adamantyl)-4-bromophenol
In a 100 ml three-necked flask, and under a nitrogen environment, is placed 1 g of 1-acetoxyadamantane and 10 ml of n-heptane. After total dissolution, 0.25 g of concentrated sulfuric acid is added drop by drop while keeping the temperature at 20° C., then 0.886 g of 4bromophenol is poured in slowly. After leaving 24 hours in vigorous agitation, 20 ml of denatured ethanol are added while maintaining the temperature at 20° C. Next, the solvent is evaporated to dryness under reduced pressure and a whitish raw product is obtained. The product is redissolved in water at approximately 60° C., it is washed to pH 6 and dried in a vacuum oven for 24 hours at 25° C. One collected 1.24 g of expected raw product (Melting point: 140°-141° C.).

reactant | 1-acetoxyadamantane | 1 g | C(C)(=O)OC12CC3CC(CC(C1)C3)C2 | C12H18O2
reactant | n-heptane | 10 ml | CCCCCCC | C7H16
reactant | sulfuric acid | 0.25 g | S(O)(O)(=O)=O | H2O4S
reactant | 4bromophenol | 0.886 g | BrC1=CC=C(C=C1)O | C6H5BrO
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(1-adamantyl)-4-bromophenol | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)O | C16H19BrO
